US08404696B2
N-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]-N-(4-{[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]methylamino}butyl)acetamide (Compound 6)
Hydrochloride acid salt of N-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]-N-{4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butyl}acetamide (2 g, 3.5 mmol was dissolved in 80 mL dichloromethane and 10 mL, methanol. Triethylamine (0.45 g, 4.5 mmol) and paraformaldehyde (0.14 g, 4.5 mmol) was added thereto and stirred for 2 hours at room temperature. After concentration of the solvent, 40 mL methanol and sodium borohydride (0.76 g, 20.2 mmol) were added thereto and stirred for 15 hours. After removal of methanol by distillation under reduced pressure, silica gel column-chromatography of the remaining residue was performed to give the title compound of white solid (1.2 g, 62%).

reactant | Hydrochloride | Cl | ClH
reactant | N-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]-N-{4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butyl}acetamide | O=C1NC2=CC=CC=C2C(N1CCCN(C(C)=O)CCCCNCCCN1C(NC2=CC=CC=C2C1=O)=O)=O | C28H34N6O5
reactant | Triethylamine | 4.5 mmol, 0.45 g | C(C)N(CC)CC | C6H15N
reactant | paraformaldehyde | 4.5 mmol, 0.14 g | C=O | CH2O
reactant | sodium borohydride | 20.2 mmol, 0.76 g | [BH4-].[Na+]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | methanol | 40 mL | CO | CH4O
product | N-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]-N-(4-{[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]methylamino}butyl)acetamide | O=C1NC2=CC=CC=C2C(N1CCCN(C(C)=O)CCCCN(C)CCCN1C(NC2=CC=CC=C2C1=O)=O)=O | C29H36N6O5
